US04087551
A solution of 1-amino-7,7-dimethylnorbornane (1.022 g) in pyridine (10 ml) was cooled in an ice-bath and stirred whilst acetyl chloride (1 ml) was added dropwise. The ice-bath was removed and the mixture was kept at room temperature until the reaction was complete. Dilution with water, acidification with dilute hydrochloric acid and extraction with ether afforded the crude product which was purified by filtration through a small column of neutral alumina and crystallization from ether-petroleum ether to give 1-acetamido-7,7-dimethylnorbornane m.p. 133°-134° (Kofler) after previous softening.

reactant | 1-amino-7,7-dimethylnorbornane | 1.022 g | NC12CCC(CC1)C2(C)C | C9H17N
reactant | acetyl chloride | 1 ml | C(C)(=O)Cl | C2H3ClO
solvent | pyridine | 10 ml | N1=CC=CC=C1 | C5H5N
product | 1-acetamido-7,7-dimethylnorbornane | C(C)(=O)NC12CCC(CC1)C2(C)C | C11H19NO
